* =========================================================
* LM324 QUAD OP-AMP (14-pin package)
* =========================================================

* ---- Single Op-Amp section ----
.SUBCKT LM324_OPAMP OUT IN- IN+ VCC+ VCC-
E1 OUT 0 IN+ IN- 999k
R1 OUT 0 100k
.ENDS LM324_OPAMP

* ---- Full Quad Op-Amp model ----
* Pinout (DIP-14)
* 1: OUT1  2: IN1-  3: IN1+  4: VCC+
* 5: IN2+  6: IN2-  7: OUT2  8: OUT3
* 9: IN3- 10: IN3+ 11: VCC- 12: IN4+ 13: IN4- 14: OUT4
.SUBCKT LM324 1 2 3 4 5 6 7 8 9 10 11 12 13 14
XOA 1 2 3 4 11 LM324_OPAMP
XOB 7 6 5 4 11 LM324_OPAMP
XOC 8 9 10 4 11 LM324_OPAMP
XOD 14 13 12 4 11 LM324_OPAMP
.ENDS LM324
