* LM324 Quad Op-Amp SPICE Model
.SUBCKT LM324 1 2 3 4 5 6 7 8 9 10 11 12 13 14

* A section
EOPA1 1 0 3 2 999K
RLOA1 1 0 100K

* B section
EOPB1 7 0 5 6 999K
RLOB1 7 0 100K

* C section
EOPC1 8 0 10 9 999K
RLOC1 8 0 100K

* D section
EOPD1 14 0 12 13 999K
RLOD1 14 0 100K

.ENDS LM324
